US05861109
4-methoxycarbonyloxybenzoic acid
A solution of sodium hydroxide (15 g) in water (400 ml) was chilled to 0° C. in ice. To this the 4-hydroxy benzoic acid (17.9 g, 0.130 mol) was added. Methylchloroformate (20 g, 0.212 mol) was added slowly to prevent the temperature from rising above 5° C. The reaction mixture was stirred at 0°-5° C. for 3 h during which time a white suspension gradually formed. The pH was adjusted to 4-5 with addition of HCl/water (1:1). The voluminous precipitate was filtered off, washed with water and recrystallised from ethanol (200 ml).

reactant | sodium hydroxide | 15 g | [OH-].[Na+]
reactant | 4-hydroxy benzoic acid | 0.130 mol, 17.9 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | Methylchloroformate | 0.212 mol, 20 g | COC(=O)Cl | C2H3ClO2
reactant | HCl water | Cl.O
solvent | water | 400 ml | O | H2O
product | 4-methoxycarbonyloxybenzoic acid | COC(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O5
